US04808762
To a stirred suspension of 19.9 grams (0.204 mole) of N-methoxy-N-methylamine hydrochloride in 500 mL of methylene chloride was added 39.3 grams (0.388 mole) of triethylamine. Upon completion of addition, the reaction mixture was stirred for ten minutes, and a solution of 38.4 grams (0.185 mole) of 4-trifluoromethylbenzoyl chloride in 25 mL of methylene chloride was added dropwise. Upon completion of addition, the reaction mixture was stirred at ambient temperature for 18 hours. The reaction mixture was then stirred vigorously with 300 mL of water. The aqueous layer was separated from the organic layer and washed with three portions of methylene chloride. The washes were combined with the organic layer, and the combination was dried with magnesium sulfate. The mixture was filtered, and the filtrate was concentrated under reduced pressure, yielding 42.5 grams of N-methoxy-N-methyl-4-trifluoromethylbenzamide as an oil. The nmr spectrum was consistent with the proposed structure.

reactant | N-methoxy-N-methylamine hydrochloride | 0.204 mole, 19.9 grams | Cl.CONC
reactant | triethylamine | 0.388 mole, 39.3 grams | C(C)N(CC)CC | C6H15N
reactant | 4-trifluoromethylbenzoyl chloride | 0.185 mole, 38.4 grams | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | water | 300 mL | O | H2O
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | N-methoxy-N-methyl-4-trifluoromethylbenzamide | 42.5 grams | CON(C(C1=CC=C(C=C1)C(F)(F)F)=O)C | C10H10F3NO2
